US09145429B2
A mixture of compound 2,5,6-trichloronicotinamide (0.6 g, 2.7 mmol), 1-(3-hydroxypropyl)cyclopropanol (370 mg, 3.2 mmol) and tert-BuOK (363 mg, 3.2 mmol) in DMF was stirred at room temperature overnight and the reaction mixture was then poured into cold water, the mixture was extracted twice with ethyl acetate, the combined organic layers were washed with brine twice, dried over Na2SO4 and concentrated, the residue was purified by column chromatography (silica gel, Petroleum ether: EtOAc=1:0 to 5:1) to give the 5,6-dichloro-2-(3-(1-hydroxycyclopropyl)propoxy)nicotinamide (0.72 g, 73%). 1H-NMR (400 MHz, DMSO-d6) δ (ppm) 8.65 (s, 1H), 8.29 (s, 1H), 8.03 (s, 1H), 5.48 (s, 1H), 4.82 (t, 2H, J=6.4 Hz), 2.36 (m, 2H), 1.97 (m, 2H), 0.94 (t, 2H), 0.73 (t, 2H).

reactant | 2,5,6-trichloronicotinamide | 2.7 mmol, 0.6 g | ClC1=C(C(=O)N)C=C(C(=N1)Cl)Cl | C6H3Cl3N2O
reactant | 1-(3-hydroxypropyl)cyclopropanol | 3.2 mmol, 370 mg | OCCCC1(CC1)O | C6H12O2
reactant | tert-BuOK | 3.2 mmol, 363 mg | C(C)(C)(C)O[K]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5,6-dichloro-2-(3-(1-hydroxycyclopropyl)propoxy)nicotinamide | 0.72 g, 73% | ClC=1C(=NC(=C(C(=O)N)C1)OCCCC1(CC1)O)Cl | C12H14Cl2N2O3
